US06034107
To a solution of methyl 5-(1,2-dihydroxypropyl)-2-pyridinecarboxylate (6 mg) in pyridine (0.1 ml), acetic anhydride (50 μl) was added at room temperature. After stirring for 1 hour at room temperature, the reaction mixture was evaporated under N2 gas. The residue was applied to a silica gel plate (Kiesselgel GF254, 10×10 cm, Merck trademark) and developed with chloroform-methanol (95:5) to give methyl 5-(1,2-diacetoxypropyl)-2-pyridinecarboxylate: white amorphous powder; molecular formula C14H17NO6 ; LRFAB-MS m/z 296 [M+H]+ ; 1H-NMR (CDCl3) δ 8.68 (1H, d, J=2.2 Hz), 8.16 (1H, d, J=8.1 Hz), 8.03 (1H, dd, J=8.1 and 2.2 Hz), 5.95 (1H, d, J=4.3 Hz), 5.28 (1H, dq, J=6.5 and 4.3 Hz), 3.97 (3H, s), 2.12 (3H, s), 1.99 (3H, s), 1.18 (3H, d,J=6.5 Hz).

reactant | methyl 5-(1,2-dihydroxypropyl)-2-pyridinecarboxylate | 6 mg | OC(C(C)O)C=1C=CC(=NC1)C(=O)OC | C10H13NO4
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 50 μl | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 5-(1,2-diacetoxypropyl)-2-pyridinecarboxylate | C(C)(=O)OC(C(C)OC(C)=O)C=1C=CC(=NC1)C(=O)OC | C14H17NO6
